Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Demerol / Percocet / Vicodin / Cymbalta / Lisinopril / 
hydralazine-hydrochlorothiazid / Codeine / Darvon / Trazodone / 
Dilaudid
 
Attending: ___
 
Chief Complaint:
right sided chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo F h/o CAD s/p CABG d/c 4 days ago to rehab. Has had 
ongoing constant right sided pressure type chest pain for past 
several weeks. In rehab, she was so worried about the pain and 
she checked herself out of rehab and came to the ED. It is 
worsened by movement and ranges from a ___ and can last up 
to two days at a time. She has had this pain before and it has 
been attributed to fibromyalgia. She states this very same pain 
occured nearly 2 months ago and it resolved on its own after 
approximately one week. She states that this time it isn't going 
away. She feels the pain is worsening.  
.  
In the ED, initial vs were:99 70 139/67 16 98% 2L. Per the ED 
report, no ischemic changes. CXR showed mild fluid overload. 
C-surg saw her and felt that she should be discharged with an 
increase in diuretic regimen. Patient was given ultram 100 mg 
with mild relief. In order to go back to rehab she must be 
re-screened since she signed herself out. So, ED will admit to 
medicine for screening and pain control. Last vitals: temp: 98.4 
85 134/61 16 99% 2L.  
.  
On the floor,patient is complaining of chest pain in her right 
chest.  

 
Past Medical History:
Hypertension
Hyperlipidemia
Diabetes mellitus type ___
Fibromyalgia
Chronic back pain
Lumbar spinal stenosis
Right shoulder and hip bursitis
Shingles
Alopecia
Obesity
Depression
Cataract
Retinopathy
Neuropathy
Gastroesophageal reflux disease
s/p Surgery to L4, L5 and S1 for spinal stenosis
s/p Right rotator cuff repair
s/p Total abdominal hysterectomy c/b small bowel obstruction
s/p Ex-Lap, Lysis of Adhesions with Nephrectomy
 
Social History:
___
Family History:
No premature CAD
 
Physical Exam:
afebrile, 126/56 52 22 97% RA
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, right pupil 
nonresponsive, oval shaped, left pupil reactive 3-2mm  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema, tender to palpation along origin of rotator cuff muscles, 
no bony tenderness, pain with adduction of arm to ~60 degrees
Neuro: CNs2-12 intact, motor function grossly normal, AAOx3 
however unable to name days of week or months of year backward. 
Cerebellar exam intact, sensation intact.  
 
Pertinent Results:
Admission:
___ 05:14PM BLOOD WBC-7.9 RBC-3.09* Hgb-9.7* Hct-29.5* 
MCV-95 MCH-31.4 MCHC-32.9 RDW-13.4 Plt ___
___ 05:14PM BLOOD Neuts-69.6 ___ Monos-4.5 Eos-2.1 
Baso-1.4
___ 06:55AM BLOOD ___ PTT-30.2 ___
___ 05:14PM BLOOD Glucose-110* UreaN-17 Creat-1.2* Na-139 
K-4.6 Cl-106 HCO3-22 AnGap-16
___ 05:14PM BLOOD CK-MB-2 proBNP-1315*
___ 06:55AM BLOOD Calcium-8.6 Phos-3.4 Mg-2.2
___ 05:14PM BLOOD cTropnT-0.02*
___ 06:55AM BLOOD CK-MB-2 cTropnT-0.02*

___ 04:38PM URINE Color-Straw Appear-Clear Sp ___
___ 04:38PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG
___ 04:38PM URINE

EKG 
___: Sinus rhythm. Borderline short P-R interval. Possible 
left atrial abnormality. Diffuse anterolateral ST-T wave changes 
concerning for possible myocardial ischemia. Clinical 
correlation is suggested. Compared to the previous tracing of 
___ the ST segment abnormalities are fairly similar. 
Frequent atrial ectopy is no longer seen 

___: Sinus rhythm. Diffuse T wave inversions in lateral leads 
with ST segment changes inferiorly. Compared to the previous 
tracing of ___ these possible ischemic changes appear to be 
slightly more prominent on the current tracing 

CXR: FINDINGS: 
  
Frontal and lateral views of the chest were obtained. Patient is 
status post median sternotomy and CABG. Moderate cardiomegaly 
persists. Platelike 
atelectasis/scarring is again seen at the left lung base without 
significant interval change. Minimal thickening of the minor 
fissure is unchanged.  Lateral view demonstrates posterior lower 
lung opacity, also present on the prior chest radiographs, 
unchanged. There has been interval removal of a left internal 
jugular central venous catheter. No overt pulmonary edema is 
seen. 

Discharge Labs: 
___ 07:39AM BLOOD WBC-10.3 RBC-2.75* Hgb-8.6* Hct-25.4* 
MCV-92 MCH-31.1 MCHC-33.8 RDW-13.1 Plt ___
___ 06:55AM BLOOD Glucose-145* UreaN-17 Creat-1.1 Na-135 
K-4.5 Cl-104 HCO3-25 AnGap-11
 
Brief Hospital Course:
This is a ___ yo F h/o CAD s/p recent CABG presenting with 
atypical chest pain, likely musculoskeletal in nature.
.
# Chest Pain:  Patient was seen by Cardiac surgery in the ED, 
they felt this was not cardiac nor CABG related in nature.  She 
has had this episodic pain for approximately ___ year.  Patient 
was ruled out and treated with pain control with tylenol, 
lidocaine patch, and tramadol with good control.  This was 
thought to be related to fibromyalgia and gabapentin 200 mg TID 
was started.  This can be uptitrated as needed for pain control.
.  
# Gout - Had gout flare of left MTP.  Received colchicine 1.2mg 
followed by 0.6mg and naproxen 500mg x1 with relief of pain.
.
# CAD: s/p CABG - Sternal wound kept clean with soap and water. 

 
Medications on Admission:
1. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
 
times a day) for 1 months.  
2. aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1)  
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
3. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1)  

Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
4. simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY  
(Daily).  
5. hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q4H (every 4  
hours) as needed for pain.  
6. metformin 500 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
7. glyburide 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
8. metoprolol tartrate 25 mg Tablet Sig: One (1) Tablet PO BID  
(2 times a day).  
9. lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig:  
One (1) Topical DAILY (Daily).  
10. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q4H  
(every 4 hours) as needed for fever/pain.  
11. magnesium hydroxide 400 mg/5 mL Suspension Sig: Thirty (30)  

ML PO HS (at bedtime) as needed for constipation.  
12. bisacodyl 10 mg Suppository Sig: One (1) Suppository Rectal  

DAILY (Daily) as needed for constipation.  
13. furosemide 20 mg Tablet Sig: One (1) Tablet PO Q12H (every  
12 hours).  
14. potassium chloride 20 mEq Tab Sust.Rel. Particle/Crystal  
Sig: One (1) Tab Sust.Rel. Particle/Crystal PO Q12H (every 12  
hours).  
15. albuterol sulfate 2.5 mg /3 mL (0.083 %) Solution for  
Nebulization Sig: One (1) Inhalation Q6H (every 6 hours) as  
needed for wheezing.  

 
Discharge Medications:
1. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
3. simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
4. tramadol 50 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for pain.  
5. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
6. lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
One (1) Adhesive Patch, Medicated Topical DAILY (Daily) as 
needed for right chest pain.  
7. acetaminophen 650 mg Tablet Sig: One (1) Tablet PO Q6H (every 
6 hours) as needed for fever or pain.  
8. metoprolol tartrate 25 mg Tablet Sig: One (1) Tablet PO twice 
a day.  
9. magnesium hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
mL PO at bedtime as needed for constipation.  
10. bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
constipation.  
11. furosemide 20 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
12. potassium chloride 20 mEq Packet Sig: One (1)  PO twice a 
day.  
13. albuterol sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1) neb Inhalation every ___ hours as 
needed for shortness of breath or wheezing.  
14. metformin 500 mg Tablet Sig: One (1) Tablet PO once a day.  
15. glyburide 5 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: Atypical chest pain, gout, fibromyalgia

Secondary: Hypertension, Diabetes mellitus II, 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

 It was a pleasure taking care of you during your 
hospitalization.  You were treated for atypical right sided 
chest pain.  The cardiac surgeons saw you in the emergency room 
and did not think this was a problem with your CABG.  We checked 
an EKG and enzymes and they showed no damage to your heart.  We 
thought this pain was musculoskeletal.  We treated this with 
pain medication.  You also had a gout flare that was treated 
with colchicine.  

We made the following changes to your medications:
Added
Gabapentin 200mg by mouth three times daily

 
Followup Instructions:
___